US05602170
Synthesis of 5-(2,2-dibromoethenyl)-2,2'-bithiophene
0.55 g of 5-formyl-2,2'-bithiophene was dissolved in 10 ml of dichloromethane. 1.95 g of PPh3 and 1.23 g of CBr4 were dissolved in 40 ml of dichloromethane and mixed with the 5-formyl-2,2'-bithiophene/dichloromethane solution under nitrogen gas atmosphere at 0° C. After the mixture was stirred for 1 hour and 10 ml of n-hexane was added to precipitate the triphenyl-phosphine oxide. And the reaction solution was filtered. Further, 100 ml of n-hexane was then added into the solution and the yellowish solid was obtained. The solid was further purified by column chromatography and crystallized with ethanol. The crystal product was thus obtained and the melting point thereof was 112°-113° C.

reactant | 5-formyl-2,2'-bithiophene | 0.55 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | PPh3 | 1.95 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 1.23 g | C(Br)(Br)(Br)Br | CBr4
reactant | 5-formyl-2,2'-bithiophene dichloromethane | C(=O)C1=CC=C(S1)C=1SC=CC1.ClCCl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | 5-(2,2-dibromoethenyl)-2,2'-bithiophene | BrC(=CC1=CC=C(S1)C=1SC=CC1)Br | C10H6Br2S2
